US04933355
Ethyl 2-(3-o-fluorophenylthioureido)thiazol-4-yl-glyoxylate
Following a procedure similar to that described in Preparation 1. the desired compound was prepared from 15 g of ethyl 2-aminothiazol-4-ylglyoxylate, 17 g of o-fluorophenyl isothiocyanate and 30 ml of hexamethylphosphoric triamide. The resulting product was a pale yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 15 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | o-fluorophenyl isothiocyanate | 17 g | FC1=C(C=CC=C1)N=C=S | C7H4FNS
solvent | hexamethylphosphoric triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Ethyl 2-(3-o-fluorophenylthioureido)thiazol-4-yl-glyoxylate | FC1=C(C=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=S | C14H12FN3O3S2
